US04029772
To a solution of 0.009 moles of t-butyloxycarbonylalanylalanylproline in 80 ml of dry tetrahydrofuran which has been cooled to -20° to -30° is added 1.0 ml of N-methylmorpholine and 1.2 ml of isobutylchloroformate. After stirring for 10 minutes there is added 0.009 moles of 2-azaalanine ethyl ester in 50 ml of chloroform. The reaction mixture is stirred overnight at room temperature and then concentrated in vacuo. The residue is taken up between ethyl acetate and 0.25 N hydrochloric acid. The organic layer is separated, washed with saturated sodium bicarbonate solution, water, dried over magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel. Elution with ethyl acetate gives t-butyloxycarbonylalanylalanylprolyl-2-azaalanine ethyl ester.

reactant | t-butyloxycarbonylalanylalanylproline | 0.009 moles | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C16H27N3O6
reactant | N-methylmorpholine | 1.0 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.2 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 2-azaalanine ethyl ester | 0.009 moles | C(C)OC(N(N)C)=O | C4H10N2O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | t-butyloxycarbonylalanylalanylprolyl-2-azaalanine ethyl ester | C(C)OC(N(NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C)=O)C)=O)=O)C)=O | C20H35N5O7
